US09079866B2
2-[6-(2-Aminopyrimidin-5-yl)-5-fluoropyridin-3-yl]-N-[(2R)-2-hydroxypropyl]benzenesulfonamide
The title compound was prepared in a manner similar to that described in Example 427 using (6-(2-aminopyrimidin-5-yl)-5-fluoropyridin-3-yl)boronic acid and (R)-2-bromo-N-(2-hydroxypropyl)benzenesulfonamide. MS (ESI): mass calcd. for C18H18FN5O3S, 403.11; m/z found, 404.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 9.02 (d, J=0.8, 2H), 8.52-8.47 (m, 1H), 8.09 (dd, J=7.9, 1.4, 1H), 7.81 (dd, J=11.9, 1.8, 1H), 7.72 (m, 1H), 7.66 (m, 1H), 7.46 (dd, J=7.5, 1.4, 1H), 3.74-3.59 (m, 1H), 2.84-2.66 (m, 2H), 1.06 (d, J=6.3, 3H).

reactant | (6-(2-aminopyrimidin-5-yl)-5-fluoropyridin-3-yl)boronic acid | NC1=NC=C(C=N1)C1=C(C=C(C=N1)B(O)O)F | C9H8BFN4O2
reactant | (R)-2-bromo-N-(2-hydroxypropyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)NC[C@@H](C)O | C9H12BrNO3S
product | 2-[6-(2-Aminopyrimidin-5-yl)-5-fluoropyridin-3-yl]-N-[(2R)-2-hydroxypropyl]benzenesulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=N1)C1=C(C=CC=C1)S(=O)(=O)NC[C@@H](C)O)F | C18H18FN5O3S
